US08877968B2
To 69 mg (0.21 mmol) of 2-{3-[2-(1H-imidazol-4-yl)ethyl]ureido}-3-(4-methoxyphenyl)-propanoic acid (cf. preparation 2-3) dissolved in 2 mL of DMF is added a solution of 71 mg (0.20 mmol) of 4-butoxy-4-cyclohexylpiperidine trifluoroacetate in 1.5 mL of DMF, 44 mg (0.23 mmol) of EDC and 33 mg (0.24 mmol) of HOBt. After 2 hours 30 minutes, the reaction medium is hydrolysed with aqueous 2% citric acid solution and then extracted with dichloromethane. The organic phase is then washed with aqueous 1N sodium hydroxide solution. The organic phase is dried over MgSO4, filtered and concentrated. This oil is chromatographed on silica gel (eluent: 8/2 DCM/MeOH). 25 mg of 1-[2-(4-butoxy-4-cyclohexylpiperidin-1-yl)-1-(4-methoxy-benzyl)-2-oxoethyl]-3-[2-(1H-imidazol-4-yl)ethyl]urea are obtained in a yield of 22%.

reactant | 2-{3-[2-(1H-imidazol-4-yl)ethyl]ureido}-3-(4-methoxyphenyl)-propanoic acid | 0.21 mmol, 69 mg | N1C=NC(=C1)CCNC(NC(C(=O)O)CC1=CC=C(C=C1)OC)=O | C16H20N4O4
reactant | 4-butoxy-4-cyclohexylpiperidine trifluoroacetate | 0.20 mmol, 71 mg | FC(C(=O)O)(F)F.C(CCC)OC1(CCNCC1)C1CCCCC1
reactant | EDC | 0.23 mmol, 44 mg
reactant | HOBt | 0.24 mmol, 33 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 1-[2-(4-butoxy-4-cyclohexylpiperidin-1-yl)-1-(4-methoxy-benzyl)-2-oxoethyl]-3-[2-(1H-imidazol-4-yl)ethyl]urea | 25 mg, yield of 22% | C(CCC)OC1(CCN(CC1)C(C(CC1=CC=C(C=C1)OC)NC(=O)NCCC=1N=CNC1)=O)C1CCCCC1 | C31H47N5O4
